US20010027196A1
To a stirred solution of 250 mg (0.77 mmol) trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester in 10 ml DME in a pressure tube was added 0.63 ml (5.77 mmol) benzylamine and the mixture heated at 80° C. for 16 hours. The reaction mixture was then poured onto 80 ml water and cooled to 0° C. The resulting crystals were collected by filtration and washed sequentially with water, ether/hexane and a minimum quantity of ice-cold ether to afford 140 mg (65%) N4-benzyl-6-furan-2-yl-5-methyl-pyrimidine-2,4-diamine as a white crystalline solid. ES-MS m/e (%): 281 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester | 0.77 mmol, 250 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C)C=1OC=CC1 | C10H8F3N3O4S
reactant | benzylamine | 5.77 mmol, 0.63 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 80 ml | O | H2O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | N4-benzyl-6-furan-2-yl-5-methyl-pyrimidine-2,4-diamine | 140 mg, 65% | C(C1=CC=CC=C1)NC1=NC(=NC(=C1C)C=1OC=CC1)N | C16H16N4O
